US06803384B2
A solution of lithium hydroxide monohydrate (100 mg, 2.38 mmol) in water (5 mL) was added to a solution of N-[2,6-dichloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine, methyl ester (260 mg, 0.434 mmol) in tetrahydrofuran (15 mL) and methanol (5 mL), and the resulting mixture was stirred at room temperature overnight. The solution was evaporated, and the residue was partitioned between ethyl acetate (40 mL) and 1M HCl (10 mL). The organic layer was evaporated and the residue was dissolved in methanol (˜1 mL), purified by HPLC, and lyophilized to give N-[2,6-dichloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine (170 mg, 67%).

reactant | lithium hydroxide monohydrate | 2.38 mmol, 100 mg | O.[OH-].[Li+]
reactant | N-[2,6-dichloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine, methyl ester | 0.434 mmol, 260 mg | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)OC)C(=CC(=C1)C(=O)N[C@H](C)C1=CC=CC2=CC=CC=C12)Cl | C29H25Cl2N3O5S
solvent | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | N-[2,6-dichloro-4-[[[(1R)-1-(1-naphthalenyl)ethyl]amino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine | 170 mg, 67% | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C(=CC(=C1)C(=O)N[C@H](C)C1=CC=CC2=CC=CC=C12)Cl | C28H23Cl2N3O5S
